US08309716B2
Preparation of methyl-[(3R,4R)-4-methyl-piperidin-3-yl]-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine
To a clean, dry, nitrogen-purged 2 L hydrogenation reactor were charged 20 wt % Pd(OH)2/C (24.0 g, 50% water wet), water (160 ml), isopropanol (640 ml), (1-benzyl-4-methyl-piperidin-3-yl)-methyl-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine (160.0 g, 0.48 mol), and acetic acid (28.65 g, 0.48 mol). The reactor was purged with three times at 50 psi with nitrogen and three times at 50 psi with hydrogen. Once purging was complete, the reactor was heated to 45-55° C. and pressurized to 50 psi with hydrogen through a continuous feed. The hydrogen uptake was monitored until no hydrogen was consumed for 1 hour. The reactor was cooled to 20-30° C. and purged three times at 50 psi with nitrogen. The reaction mixture was filtered through wet Celite and the filtrate was sent to a clean, dry, nitrogen-purged vessel. A solution of sodium hydroxide (39.33 g) in water (290 ml) was charged and the mixture was stirred for a minimum of 1 hour then heated to 75-90° C. The isopropanol was removed by distillation. The reaction mixture was cooled to 20-30° C. and 2-methyltetrahydrofuran (1.6 L) was added. The aqueous layer was drained off and the 2-methyltetrahydrofuran was displaced with toluene (1.6 L). The distillation was continued until the final volume was 800 ml. The slurry was cooled to 20-30° C. and held for a minimum of 7 hours. The resulting solids were isolated by filtration and washed with toluene (480 ml). After drying under vacuum between 40-50° C. for a minimum of 24 hours with a slight nitrogen bleed 102.3 g (87.3%) of the title compound were isolated.

reactant | water | 160 ml | O | H2O
reactant | (1-benzyl-4-methyl-piperidin-3-yl)-methyl-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine | 0.48 mol, 160.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)C)N(C=1C2=C(N=CN1)NC=C2)C | C20H25N5
reactant | acetic acid | 0.48 mol, 28.65 g | C(C)(=O)O | C2H4O2
catalyst | Pd(OH)2/C | 24.0 g | [OH-].[OH-].[Pd+2]
solvent | isopropanol | 640 ml | C(C)(C)O | C3H8O
product | methyl-[(3R,4R)-4-methyl-piperidin-3-yl]-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine | CN(C=1C2=C(N=CN1)NC=C2)[C@H]2CNCC[C@H]2C | C13H19N5
